US07851473B2
(4) 1-[4-(3-Fluorophenyl)-1,3-thiazol-2-yl]piperazine
To a solution of tert-butyl 4-[4-(3-fluorophenyl)-1,3-thiazol-2-yl]piperazine-1-carboxylate (780 mg, 2.15 mmol) in ethyl acetate (50 ml) was added a 4N solution (25 ml) of hydrogen chloride in ethyl acetate, and the mixture was stirred at room temperature for 14 hours. The solvent was distilled off under reduced pressure, and the residue was dissolved in water. The solution was neutralized with 1N aqueous sodium hydroxide solution, and the mixture was extracted with chloroform. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to give the desired product (487 mg, 86.3%) as a solid.

reactant | tert-butyl 4-[4-(3-fluorophenyl)-1,3-thiazol-2-yl]piperazine-1-carboxylate | 2.15 mmol, 780 mg | FC=1C=C(C=CC1)C=1N=C(SC1)N1CCN(CC1)C(=O)OC(C)(C)C | C18H22FN3O2S
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 1-[4-(3-Fluorophenyl)-1,3-thiazol-2-yl]piperazine | 487 mg, 86.3% | FC=1C=C(C=CC1)C=1N=C(SC1)N1CCNCC1 | C13H14FN3S
